US07498440B2
Preparation of 4-[hydroxy(di-2-thienyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol (0.0693 g, 0.227 mmol) and 2-bromoethyl phenyl ether (0.056 g, 0.279 mmol) in 1 MeOH/1 CHCl3 (3.0 mL) were reacted to give the desired product (0.0822 g, 74.7%). EI-MS m/z 426(M+) Rt (2.00 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(di-2-thienyl)methanol | 0.227 mmol, 0.0693 g | N12CCC(CC1)(CC2)C(O)(C=2SC=CC2)C=2SC=CC2 | C16H19NOS2
reactant | 2-bromoethyl phenyl ether | 0.279 mmol, 0.056 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
solvent | MeOH | 3.0 mL | CO | CH4O
product | 4-[hydroxy(di-2-thienyl)methyl]-1-[2-(phenyloxy)ethyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0822 g, 74.7% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOC2=CC=CC=C2)(C=2SC=CC2)C=2SC=CC2 | InChI=1S/C24H28NO2S2.BrH/c26-24(21-8-4-18-28-21,22-9-5-19-29-22)23-10-13-25(14-11-23,15-12-23)16-17-27-20-6-2-1-3-7-20;/h1-9,18-19,26H,10-17H2;1H/q+1;/p-1
